US07119200B2
4-(2-tert-Butoxycarbonylaminoethyl)piperidine (500 mg, 2.19 mmoles) was dissolved in anhydrous dichloromethane (10 mL) and trimethylsilylisocyanate (2.96 mL, 21.9 mmoles) was added. The mixture was stirred under argon at 25° C. for 3.25 h. The mixture was diluted with dichloromethane and washed with saturated aqueous sodium bicarbonate. The organic layer was dried (MgSO4), filtered, evaporated to dryness and chromatographed on a silica gel column (15×5 cm) using 5% (10% conc. ammonium hydroxide in methanol)-dichloromethane as the eluant to give 4-(2-tert-butoxycarbonylaminoethyl)piperidine-1-carboxamide (308.2 mg, 52%): FABMS: m/z 272.0 (MH+); HRFABMS: m/z 272.1965 (MH+). Calcd. for C13H26O3N3: m/z 272.1974; δH (CDCl3) 1.20 (2H, m, CH2), 1.47 (9H, s, —COOC(CH3)3), 1.45–1.55 (3H, m, CH/CH2), 1.75 (2H, m, CH2), 2.82 (2H, m, CH2), 3.19 (2H, m, CH2), 3.96 (2H, m, CH2), 4.64 (2H, m, CH2) and 4.70 ppm (1H, bm, NH); δC (CDCl3) CH3: 28.5, 28.5, 28.5; CH2: 31.8, 31.8, 36.7, 38.0, 44.5, 44.5; CH: 33.4; C: 79.2, 156.7, 158.1.

reactant | 4-(2-tert-Butoxycarbonylaminoethyl)piperidine | 2.19 mmoles, 500 mg | C(C)(C)(C)OC(=O)NCCC1CCNCC1 | C12H24N2O2
reactant | trimethylsilylisocyanate | 21.9 mmoles, 2.96 mL | C[Si](C)(C)N=C=O | C4H9NOSi
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-(2-tert-butoxycarbonylaminoethyl)piperidine-1-carboxamide | 308.2 mg, 52% | C(C)(C)(C)OC(=O)NCCC1CCN(CC1)C(=O)N | C13H25N3O3
